US06800651B2
N-(3-(4-(N′-Methanesulfonyl-N′-t-butoxycarbonylaminoethyl)phenyl)pyrid-3-ylmethylamine
A room temperature solution of N-(2-(4-iodophenyl)ethyl)-N-(methylsulfonyl)amine (201 g, 0.618 mol), 4-dimethylaminopyridine (3.8 g, 0.031 mol) and di-t-butyl dicarbonate (162 g, 0.744 mol) in DCM (1 L) was allowed to stir overnight. The reaction mixture was washed with water (2×400 mL) and the organic phase was concentrated to about 600 mL and hexanes (400 mL) was added. This combined solution was washed again with water (400 mL) and was concentrated to a solid that was suspended in hexanes (600 mL) and filtered. The collected solids were dried under reduced pressure to afford the intermediate title compound, N-(t-butoxycarbonyl)-N-(2-(4-iodophenyl)ethyl)-N-(methylsulfonyl)amine (241.5 g, 91.5%) as a white solid. 1H NMR (300 MHz) 7.63 (d, 2H, J=7.8), 6.98 (d, 2H, J=7.8), 3.88 (t, 2H, J=6.9), 3.10 (s, 3H), 2.88 (t, 2H, J=6.9), 1.51 (s, 9H).

reactant | N-(2-(4-iodophenyl)ethyl)-N-(methylsulfonyl)amine | 0.618 mol, 201 g | IC1=CC=C(C=C1)CCNS(=O)(=O)C | C9H12INO2S
reactant | di-t-butyl dicarbonate | 0.744 mol, 162 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.031 mol, 3.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonyl)-N-(2-(4-iodophenyl)ethyl)-N-(methylsulfonyl)amine | 241.5 g, 91.5% | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)CCC1=CC=C(C=C1)I | C14H20INO4S
